US04599447
L-carnitine chloride (1.5. g; 0.008 moles) and 1,4 diazabicyclo[2,2,2]octane (5.25 g; 0.05 moles) were dissolved in 50 cc of DMF at 80° C. The resulting solution was subsequently heated up to 125° C. for 2 hours. Upon reaction termination, the solution was cooled in an ice bath a 5° C. After about 2 hours the precipitate which formed consisting of the excess diazabicyclo octane and its N-methyl derivative was filtered off. DMF was distilled under vacuum and the residue dissolved in water and eluted on AMBERLITE IRA 402 resin activated in the OH-l form. The eluate having alkaline pH was shown to consist of diazabicyclo octane and its N-methyl derivative; L-norcarnitine which formed was retained on the resin and was eluted therefrom with 2N HCl.

reactant | L-carnitine chloride | 0.008 moles | C[N+](C)(C)CC(CC(=O)O)O.[Cl-]
reactant | 1,4 diazabicyclo[2,2,2]octane | 0.05 moles, 5.25 g | N12CCN(CC1)CC2 | C6H12N2
solvent | DMF | 50 cc | CN(C)C=O | C3H7NO
product | L-norcarnitine | CN(C)C[C@@H](CC(=O)O)O | C6H13NO3
